US06846916B2
Anhydrous raffinose (252 g, 0.50 mol) was added to 60 g anhydrous sodium acetate and stirred in 800 mL of acetic anhydride previously equilibrated to 100 degree C. Complete homogeneous solution is obtained in 30-50 minutes. The reaction is left to continue for 1-2 hours, after which the reaction mixture was poured into 4 liters of ice and left to stand for 2 hours. The raffinose peracetate precipitate formed is separated from the supernatant solution, redissolved in dichloromethane and washed three times with saturated sodium bicarbonate solution at neutral pH. The dichloromethane solution was then decolorized with 2.0 g activated charcoal and vacuum dried to give 492 g (90% yield) of raffinose peracetate white powder.

reactant | raffinose | 0.50 mol, 252 g | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O | C18H32O16
reactant | sodium acetate | 60 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 800 mL | C(C)(=O)OC(C)=O | C4H6O3
product | raffinose peracetate | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O.C(C)(=O)O[O-] | InChI=1S/C18H32O16.C2H4O3/c19-1-5-8(22)11(25)13(27)16(31-5)30-3-7-9(23)12(26)14(28)17(32-7)34-18(4-21)15(29)10(24)6(2-20)33-18;1-2(3)5-4/h5-17,19-29H,1-4H2;4H,1H3/p-1/t5-,6-,7-,8+,9-,10-,11+,12+,13-,14-,15+,16+,17-,18+;/m1./s1
